US04914206
Preparation of lankacidin C
In 20 ml of methanol was dissolved 102 mg of lankacidin A. To the solution was added a 80 ml aqueous solution of 2.0 g of the enzyme prepared in Reference Example 11. The mixture was stirred at room temperature for 35 minutes, then methanol was distilled off. The residue was extracted with methyl isobutyl ketone-tetrahydrofuran (1:1). The extract was dried on MgSO4, then the solvent was distilled off. To the residue was added ether to give a white powdery crystalline substance, which was collected by filtration and dried to obtain 24.85 mg of the title compound. This product was in agreement with lankacidin C obtained by a fermentative method in NMR, IR and TLC.

reactant | lankacidin A | 102 mg | CC1C2CC(/C=C/C(=C/CC(/C=C/C(=C/C(C(C1=O)(C(=O)O2)C)NC(=O)C(=O)C)/C)O)/C)OC(=O)C | C27H35NO8
solvent | methanol | 20 ml | CO | CH4O
product | lankacidin C | 24.85 mg | C[C@@H]1[C@H]2C[C@@H](/C=C/C(=C/C[C@@H](/C=C/C(=C/[C@H]([C@@](C1=O)(C(=O)O2)C)NC(=O)C(=O)C)/C)O)/C)O | C25H33NO7
